Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
Hematuria
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
I have read and agree with the nightfloat admission note. Please 
see nightfloat admission note for home medications, allergies, 
FH, and SH, which I have confirmed with the patient.  

In brief, Mr. ___ is a ___ year old gentleman with history of 
HTN, HLD, CAD, and seizure disorder who presented to ___ 
___ with ___ days of gross hematuria. Patient reports urine 
is a "red" color, no clots, painless, denies dysuria, abdominal 
pain, or flank pain. He endorses ___ days of worsening left 
lower leg pain and swelling. 1.5 wks ago had trip to and from 
___ by plane, multiple long car rides in past months. On 
presentation to ___ he complained of chest pain and 
back pain. Vital signs HR ___ BP 130/80 sat 94% RA. CTA showed 
bilateral moderate pulmonary emboli. Patient was then 
transferred to ___ with concern for filter placement given 
hematuria and PEs. Once here, bilateral lower extremity 
ultrasound negative for DVT and was started on heparin gtt at 
1800u/hr.  

Urology was consulted who recommended no contraindication to 
treatment for PE with hct stable. If persistent hematuria 
requiring transfusions may need to re-assess risk/benefit. If 
patient develops clot retention may require 3-way foley catheter 
and CBI but if patient continues to void and empty bladder 
without issue, would allow patient to void spontaneously.  
 
On the floor patient is chest pain free and not short of breath. 
He reports chronic upper thigh and low back pain as well as 
sciatic nerve pain. He has never had hematuria previously. No 
recent trauma or instrumentation. He describes the hematuria as 
occurring only when defecating, and lasts for entire stream. He 
reports that he had a colonoscopy when he turned ___ years 
prior to admission), and was told that they found a polyp and 
was supposed to re-scope in ___ years. No fevers, chills, night 
sweats, weight loss. 

 
Past Medical History:
. CARDIAC RISK FACTORS  
 - Hypertension  
 - Dyslipidemia  
 - CAD  
 2. CARDIAC HISTORY  
 - Coronaries s/p 2 stents to RCA  
 - Pump previous ___ per patient, now EF 50%  
 - rhythm- v paced s/p PPM  
 3. OTHER PAST MEDICAL HISTORY  
 sciatica  
 COPD  
 seizure disorder
 
Social History:
___
Family History:
mom died at ___ of brain aneurysm  
 dad has DM2  
 sister had cancer, ?ovarian  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS -  98.3 98 | ___ | 60-64 | 18 | 95-98%RA
GENERAL: Well developed, well nourished very pleasant gentleman 
in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple. JVP flat  
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops. 
LUNGS: Respiration is unlabored with no accessory muscle use. 
CTAB. No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.   
GU: age-appropriate testes without masses or deformities

DISCHARGE PHYSICAL EXAM
========================
VS - 97.9 97.9 | ___ | ___ | 18 | 93-95%RA
General: well appearing, NAD  
HEENT: MMM, EOMI  
Neck: no JVD, no LAD  
CV: rrr, no m/r/g  
Lungs: CTAB, breathing comfortably  
Abdomen: soft, nontender, nondistended, no HSM appreciated  
GU: no foley
Ext: warm and well perfused, pulses, no edema  
Neuro: grossly normal

 
Pertinent Results:
ADMISSION LABS
================
___ 03:21PM BLOOD WBC-5.7 RBC-4.26* Hgb-13.2* Hct-40.4 
MCV-95 MCH-31.0 MCHC-32.7 RDW-13.1 RDWSD-45.1 Plt ___
___ 03:21PM BLOOD Neuts-43.3 ___ Monos-11.6 Eos-4.2 
Baso-1.2* Im ___ AbsNeut-2.46 AbsLymp-2.23 AbsMono-0.66 
AbsEos-0.24 AbsBaso-0.07
___ 05:03PM BLOOD ___ PTT-34.8 ___
___ 03:21PM BLOOD Glucose-87 UreaN-16 Creat-1.1 Na-142 
K-4.3 Cl-107 HCO3-25 AnGap-14
___ 03:21PM BLOOD cTropnT-<0.01
___ 03:21PM BLOOD proBNP-376*
___ 03:29PM BLOOD Lactate-1.1

MICRO
================
UCx NG

STUDIES
================
___ B/L ___ U/S
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins.

___ TTE
Mild symmetric left ventricular hypertrophy with inferior 
dysfunction c/w CAD (RCA territory). Mildly dilated right 
ventricle with mild free wall hypokinesis. Mildly dilated 
ascending aorta. Mild mitral regurgitation. 

OSH CTA
Bilateral posterior basal pulmonary emboli.
Atherosclerotic disease of the arch of the aorta and abdominal 
aorta
as well as the coronaries.  No evidence of dissection.
Left thyroid nodule which is partially calcified.  Consider
ultrasound further assessment.
Advanced degenerative changes of the lumbar sacral spine.
Final absence of the right kidney.
 
DISCHARGE LABS
================
___ 06:38AM BLOOD WBC-7.1 RBC-4.40* Hgb-13.7 Hct-40.6 
MCV-92 MCH-31.1 MCHC-33.7 RDW-13.0 RDWSD-43.6 Plt ___
___ 06:38AM BLOOD ___ PTT-74.8* ___
___ 06:38AM BLOOD Glucose-110* UreaN-13 Creat-0.9 Na-142 
K-3.9 Cl-105 HCO3-29 AnGap-12
___ 06:38AM BLOOD Calcium-9.4 Phos-4.0 Mg-1.___ M with history of seizure d/o who presented to ___ 
with ___ days of gross hematuria found to have bilateral 
pulmonary emboli. He was started on heparin gtt x48 hours, then 
transitioned to Rixaroxaban with plans to continue as 
outpatient. He remained stable on room air with no dyspnea. For 
his hematuria, Urology was consulted in the ED, and determined 
there was no contraindication to anticoagulation. Hematuria 
resolved and H/H remained stable. He was continued on home AEDs 
with no seizure activity while inpatient.

#Pulmonary Emboli: Secondary to prolonged immobility vs 
malignancy given hematuria. Received 48hrs of heparin gtt given 
clot burden (without ongoing hematuria). Transitioned to NOAC on 
day of discharge after 48hrs of heparin gtt (rivaroxaban 
preferred in obese patients with PE). No evidence of RH strain 
on ECG and trop negative, but TTE with mild dilation of RV 
suggestive of RH strain; will need cardiology f/u. No CP, SOB, 
and hemodynamically stable. Satting well on RA and with 
ambulation on day of discharge. Rivaroxaban dosing: 15mg BID for 
21 days then 20mg daily. Additional cancer screening will be 
needed, including colonoscopy and cystoscopy (given hematuria).
 
#Hematuria: Most concerning for malignancy given PE. No sign of 
infection and unlikely to be trauma (without history and no 
instrumentation). Urology recommended that there was no 
contraindication to treatment of PE, as above. In discussion 
with urology, recommended outpatient cystoscopy as well as CT 
urogram to evaluate hematuria. He will not need to interrupt 
anticoagulation for the cystoscopy.  

#Seizure disorder: Description consistent with absence-type 
seizure disorder. Longstanding history, recent hospitalization 
for absence seizure in ___ 2 weeks prior to admission. EEG 
at ___ without epileptiform activity. Continued home 
antiepileptics

CHRONIC MEDICAL ISSUES:  
#HTN- continued home meds  
#___- without acute exacerbation. Continued home meds, strict 
I/O, daily weights (Lasix, carvedilol)  
#CAD- continued home pravastatin and asa  

TRANSITIONAL ISSUES:
=====================
#Cancer screening: Patient needs all age appropriate cancer 
screening (needs colonoscopy, cystoscopy for hematuria). 
Pulmonary emboli + hematuria are concerning for malignancy.
#Hematuria: Asymptomatic during admission, but should be 
evaluated with cystoscopy, as above. Scheduled for outpatient 
urology follow-up.
#Left thyroid nodule: incidentally found on imaging, partially 
calcified. Consider ultrasound further assessment.  Patient 
counseled to this effect
# ANTICOAGULATION FOR PE'S: Patient was started on Rivaroxaban, 
and should take 15mg BID for the first 21 days, following by 
20mg daily. He should take this for at least ___ months, and his 
PCP may determine the final duration of treatment pending 
malignancy evaluation.
# CT Urogram - patient should have CT urogram, per urology 
recommendation, to further evaluate hematuria and possible 
malignancy
# Cardiology follow up and repeat TTE to monitor RV function

CODE: Full (confirmed) 
EMERGENCY CONTACT HCP: wife ___ ___, daughter ___ 
is an RN ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Gemfibrozil 600 mg PO BID 
3. Carvedilol 50 mg PO BID 
4. amLODIPine 10 mg PO DAILY 
5. Topiramate (Topamax) 25 mg PO DAILY 
6. phentermine 15 mg oral DAILY 
7. melatonin 10 mg oral QHS 
8. Pravastatin 80 mg PO QPM 
9. LevETIRAcetam 250 mg PO BID 
10. Gabapentin 300 mg PO QHS 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID Duration: 21 Days 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth as directed Disp #*1 Dose Pack Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Carvedilol 50 mg PO BID  
5.  Gabapentin 300 mg PO QHS  
6.  Gemfibrozil 600 mg PO BID  
7.  LevETIRAcetam 250 mg PO BID  
8.  melatonin 10 mg oral QHS  
9.  phentermine 15 mg oral DAILY  
10.  Pravastatin 80 mg PO QPM  
11.  Topiramate (Topamax) 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Pulmonary Embolus

Secondary Diagnoses: hematuria, seizure disorder, hypertension, 
heart failure with reduced ejection fraction, coronary artery 
disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because you were experiencing 
blood in your urine and found to have a blood clot in your 
lungs. We think that the blood clot formed in your legs (during 
one of your trips or visits to the hospital), and then traveled 
in your blood stream to your lungs. We started you on treatment 
for this blood clot, and are discharging you with a medicine 
that works in similar ways (but is one that you take by mouth). 
It is very important that you take this medication every day, as 
prescribed, so that you do not have another blood clot form 
(which could be very dangerous and even life threatening). 

The blood in your urine resolved during your hospitalization, 
and we are recommending that you see a urologist (a urinary 
doctor) to look into why you had blood in your urine. It is also 
very important to see your primary care doctor and get screened 
for certain cancers. 

It was a pleasure caring for you!
Your ___ Care Team
 
Followup Instructions:
___